US07709645B2
3-Fluoro-5-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-N,N-dimethyl-2-[(pyridin-4-ylmethyl)-amino]-benzamide was dissolved in a mixture of tetrahydrofuran and methanol. A solution of aqueous potassium hydroxide (50% w/v) was added to the reaction mixture, and the combined mixture was allowed to stir for 1 hour at room temperature. The reaction mixture was quenched with sodium bicarbonate solution, and extracted with dichloromethane. The organic layer was dried over sodium sulfate, filtered, and concentrated in vacuo. The crude product was purified by flash chromatography (0-100% [10% methanol in ethyl acetate] in hexanes) to afford 3-fluoro-5-[3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-N,N-dimethyl-2-[(pyridin-4-ylmethyl)-amino]-benzamide. 1H-NMR (250 MHz, DMSO-d6) δ 11.87 (s, 1H), 8.53-8.41 (m, 3H), 8.09 (d, J=2.0 Hz, 1H), 7.70 (d, J=2.6 Hz, 1H), 7.60 (dd, J=7.5, 1.5 Hz, 1H), 7.52 (dd, J=14.0, 2.0 Hz, 1H), 7.33-7.21 (m, 3H), 7.17 (d, J=1.6 Hz, 1H), 7.11 (d, J=7.9 Hz, 1H), 7.04 (t, J=7.4 Hz, 1H), 6.01 (broad s, 1H), 4.42 (d, J=6.6 Hz, 2H), 3.80 (s, 3H), 2.89 (s, 12H), 2.59 (s, 12H); MS: m/z 496.3 (M+H+).

reactant | 3-Fluoro-5-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-N,N-dimethyl-2-[(pyridin-4-ylmethyl)-amino]-benzamide | FC=1C(=C(C(=O)N(C)C)C=C(C1)C=1C=C2C(=NC1)N(C=C2C2=C(C=CC=C2)OC)S(=O)(=O)C2=CC=C(C=C2)C)NCC2=CC=NC=C2 | C36H32FN5O4S
reactant | potassium hydroxide | [OH-].[K+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
product | 3-fluoro-5-[3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-N,N-dimethyl-2-[(pyridin-4-ylmethyl)-amino]-benzamide | FC=1C(=C(C(=O)N(C)C)C=C(C1)C=1C=C2C(=NC1)NC=C2C2=C(C=CC=C2)OC)NCC2=CC=NC=C2 | C29H26FN5O2
